US06515011B2
To a solution of 9-hydroxy-9-fluorene carboxylic acid (5.04 g, 22.3 mmol) in N,N-dimethylformamide (30 mL), cooled to 0° C. under nitrogen, was added (O-7-azabenzotriazol-1-y)-1,1,3,3-tetramethyluronium hexafluorophosphate, (9.32 g, 24.5 mmol), L-proline benzyl ester hydrochloride (5.93 g, 24.5 mmol), and N,N-diisopropylethylamine (8.5 mL, 48.8 mmol). The mixture was stirred at 0° C. for 3 hours, then concentrated and purified on silica gel (ethyl acetate-hexane, 1:2) to give 9-hydroxy-9-fluorenylcarbonyl-L-proline benzyl ester. HPLC=96%, R.T.=3.7 min, method A; M+1=414.1.

reactant | 9-hydroxy-9-fluorene carboxylic acid | 22.3 mmol, 5.04 g | OC1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)O | C14H10O3
reactant | (O-7-azabenzotriazol-1-y)-1,1,3,3-tetramethyluronium hexafluorophosphate | 24.5 mmol, 9.32 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | L-proline benzyl ester hydrochloride | 24.5 mmol, 5.93 g | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
reactant | N,N-diisopropylethylamine | 48.8 mmol, 8.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 9-hydroxy-9-fluorenylcarbonyl-L-proline benzyl ester | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)O)=O | C26H23NO4
